US06211215B1
In substantially the same manner as in Working Example 72, 1-[3-(4-hydroxyphenyl)propyl]imidazole was reacted with 5-chloromethyl-3-phenyl-1,2,4-oxadiazole to obtain 5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-3-phenyl-1,2,4-oxadiazole. The yield was 51%. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 124-125° C.

reactant | 1-[3-(4-hydroxyphenyl)propyl]imidazole | OC1=CC=C(C=C1)CCCN1C=NC=C1 | C12H14N2O
reactant | 5-chloromethyl-3-phenyl-1,2,4-oxadiazole | ClCC1=NC(=NO1)C1=CC=CC=C1 | C9H7ClN2O
product | 5-[4-[3-(1-imidazolyl)propyl]phenoxymethyl]-3-phenyl-1,2,4-oxadiazole | yield was 51% | N1(C=NC=C1)CCCC1=CC=C(OCC2=NC(=NO2)C2=CC=CC=C2)C=C1 | C21H20N4O2
